US09226922B2
BrettPhos pre-catalyst (6.80 mg, 8.51 μmol), 6-chloro-3-methoxy-4-(methoxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine (40 mg, 0.085 mmol), cesium carbonate (83 mg, 0.255 mmol), and (R)-1-(1-phenylethyl)urea (20.96 mg, 0.128 mmol) were taken up in dioxane (1 mL) in a 1.5 mL microwave vial and the vial was evacuated and back-filled with N2 (×3). The reaction mixture was stirred at 90° C. for 2 h. The crude reaction mixture was diluted with DCM, filtered through a syringe filter, and the filtrate was concentrated in vacuo. The residue was dissolved in TFA (2 mL), charged with triethylsilane (100 uL), and stirred at room temperature for 10 min. The reaction mixture was concentrated in vacuo and the residue was purified by mass-triggered reverse phase HPLC. Fractions containing pure compound were filtered through a PS—HCO3 cartridge and the filtrate was concentrated in vacuo to give (R)-1-(3-methoxy-4-(methoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. For C18H21N5O3 [M+1]+ 356. found 356. 1H NMR (500 MHz, CD3OD) δ 7.42-7.32 (m, 4H), 7.25 (m, 4H), 6.86 (s, 1H), 5.02 (br s, 2H), 5.01-4.98 (m, 1H), 4.10 (s, 3H), 3.58 (s, 3H), 1.53 (d, J=7.0 Hz, 3H).

reactant | 6-chloro-3-methoxy-4-(methoxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridine | 0.085 mmol, 40 mg | ClC1=CC2=C(C(=N1)COC)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC | C28H24ClN3O2
reactant | cesium carbonate | 0.255 mmol, 83 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (R)-1-(1-phenylethyl)urea | 0.128 mmol, 20.96 mg | C1(=CC=CC=C1)[C@@H](C)NC(=O)N | C9H12N2O
catalyst | BrettPhos | 8.51 μmol, 6.80 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-1-(3-methoxy-4-(methoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | COC1=NNC2=C1C(=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)COC | C18H21N5O3
